US08242133B2
A mixture of 5.49 g of 2-nitro-4-(trifluoromethylthio)phenol and 10 ml of ethyl acetate was added dropwise to a mixture, which was heated to 80° C., of 6.4 g of electrolytic iron, 10 ml of acetic acid and 20 ml of water. The reaction mixture was stirred for 30 minutes. The mixture was cooled to room temperature, and then water was added, followed by extraction with ethyl acetate twice. The combined organic layers were washed with water, a saturated aqueous solution of sodium hydrogencarbonate and a saturated sodium chloride solution, dried over magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 2.0 g of 2-amino-4-(trifluoromethylthio)phenol.

reactant | 2-nitro-4-(trifluoromethylthio)phenol | 5.49 g | [N+](=O)([O-])C1=C(C=CC(=C1)SC(F)(F)F)O | C7H4F3NO3S
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 6.4 g | [Fe] | Fe
solvent | water | O | H2O
solvent | water | 20 ml | O | H2O
product | 2-amino-4-(trifluoromethylthio)phenol | 2.0 g | NC1=C(C=CC(=C1)SC(F)(F)F)O | C7H6F3NOS
